US06762320B2
a) 1-Fluoro-3-(4-nitrophenylsulfanyl)methyl-benzene
Prepared in analogy to example 8 from 4-nitrothiophenol and 3-fluoro-benzylbromide. Yellowish solid. Yield=54%.

reactant | 4-nitrothiophenol | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 3-fluoro-benzylbromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | 1-Fluoro-3-(4-nitrophenylsulfanyl)methyl-benzene | Yield=54% | FC1=CC(=CC=C1)CSC1=CC=C(C=C1)[N+](=O)[O-] | C13H10FNO2S
